US05795915
(1) Preparation of 1-(3,4-dichlorophenyl)-2-(1-adamantylamino)ethanol hydrochloride
27 g (0.1 mol) of 1-(3,4-dichlorophenyl)-2-bromoethanol are added to a solution of 30 g (0.2 mol) of 1-adamantamine, 0.1 g of KI and 100 ml of ethanol; the mixture is stirred for 48 hours at 20° C. and 6 hours under reflux.

reactant | 1-(3,4-dichlorophenyl)-2-bromoethanol | 0.1 mol, 27 g | ClC=1C=C(C=CC1Cl)C(CBr)O | C8H7BrCl2O
reactant | 1-adamantamine | 0.2 mol, 30 g | C1C2CC3CC1CC(C2)(C3)N | C10H17N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(3,4-dichlorophenyl)-2-(1-adamantylamino)ethanol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CNC12CC3CC(CC(C1)C3)C2)O | InChI=1S/C18H23Cl2NO.ClH/c19-15-2-1-14(6-16(15)20)17(22)10-21-18-7-11-3-12(8-18)5-13(4-11)9-18;/h1-2,6,11-13,17,21-22H,3-5,7-10H2;1H
